US09422331B2
A rt solution of tert-butyl(2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (289 mg, 674 μmol) in 4 M HCl in dioxane (3.37 ml) was stirred for 1 h. The reaction was diluted with Et20 and the solids were collected by vacuum filtration to provide (3S,4S)-3-amino-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (218 mg, 89%) as a white solid.

reactant | tert-butyl(2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 674 μmol, 289 mg | C(#N)C=1C=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(=O)C2CCOCC2)C1 | C22H28N4O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 3.37 ml | O1CCOCC1 | C4H8O2
product | (3S,4S)-3-amino-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 218 mg, 89% | Cl.N[C@H]1[C@@H](N(C2=C(NC1=O)C=CC(=C2)C#N)C(=O)C2CCOCC2)C | InChI=1S/C17H20N4O3.ClH/c1-10-15(19)16(22)20-13-3-2-11(9-18)8-14(13)21(10)17(23)12-4-6-24-7-5-12;/h2-3,8,10,12,15H,4-7,19H2,1H3,(H,20,22);1H/t10-,15-;/m0./s1
